US07723333B2
3-{4-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]piperidin-1-yl}propanenitrile
A solution of 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.200 g, 0.700 mmol), TEA (0.283 g, 2.800 mmol) and 3-(4-aminopiperidin-1-yl)propanenitrile (0.161 g, 1.050 mmol) in DMF (3 mL) was heated in a microwave reactor at 120° C. for 10 mins. Water was added and the mixture was extracted with EtOAc. The organic phase was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using a mixture of heptane and EtOAc (20:80) to 100% EtOAc, then a mixture of MeOH and EtOAc (1:99) as eluant, to give the title compound (0.25 g, 89%); 1H NMR (500 MHz, CDCl3): δ 7.54-7.51 (m, 2H), 7.49-7.44 (m, 3H), 5.20 (br d 1H), 4.46-4.38 (m, 1H), 3.01-2.91 (br m, 1H), 2.70-2.65 (br m, 2H), 2.55 (t, 2H), 2.41 (t 2H), 1.74-1.63 (m 4H), 1.60 (d 6H) 1.44-1.35 (m 2H); 13C NMR (125 MHz, CDCl3): δ 158.7, 134.5, 131.8, 130.1, 128.9, 125.3, 118.8, 106.8, 53.3, 51.5, 50.0, 47.8, 32.4, 20.4, 16.4: Mass Spectrum: M−H+ 403.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.700 mmol, 0.200 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 3-(4-aminopiperidin-1-yl)propanenitrile | 1.050 mmol, 0.161 g | NC1CCN(CC1)CCC#N | C8H15N3
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-{4-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]piperidin-1-yl}propanenitrile | 0.25 g, 89% | C(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)CCC#N)C1=CC=CC=C1)(=O)=O | C20H26N4O3S
